US05366993
3-(3-Cyclododecyl-1-oxopropyl)-4-hydroxy-2(5H)-furanone
To a solution of 7.6 g (30 mmol) of methyl 3-cyclododecylpropanoate in 100 ml of methanol is added 2.4 g of sodium hydroxide. The mixture is heated to 55° C. and is maintained for 4 hours. The reaction mixture is diluted with water and is extracted with hexane. The aqueous phase is acidified with 1N hydrochloric acid and is extracted (2 times) with ethyl ether. The combined ethereal extracts are washed with 1N hydrochloric acid and are dried over magnesium sulfate. Filtration and evaporation gives 7.48 g of crude title compound. Recrystallization of a portion of the product from hexane gives 1.81 g of the title compound: m.p. 72°-74° C.; IR (KBr) 1715 cm-1 ; NMR (CDCl3) δ1.34 (m, 23H), 1.57 (q, 2H, J=8 Hz), 2.36 (t, 2H, J=8 Hz). Anal. Calc'd. for C15H28O2 : C, 74.95; H, 11.74; Found: C, 74.90; H, 11.20.

reactant | methyl 3-cyclododecylpropanoate | 30 mmol, 7.6 g | C1(CCCCCCCCCCC1)CCC(=O)OC | C16H30O2
reactant | sodium hydroxide | 2.4 g | [OH-].[Na+]
reactant | water | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 3-(3-Cyclododecyl-1-oxopropyl)-4-hydroxy-2(5H)-furanone | 1.81 g | C1(CCCCCCCCCCC1)CCC(=O)C=1C(OCC1O)=O | C19H30O4
